US05523404
Methyl 3-amino-2-chloro-2-pentenoate
Dry NH3 gas is passed through 48.9 g (0.30 mol) of methyl 2-chloro-3-oxovalerate at 70° C. for a period of 2 h. After removal of volatile constituents in vacuo, the crude product is dissolved in diisopropyl ether and washed with a little ice water. After drying over MgSO4, the solvent is removed in vacuo. Yield: 80.0% [GC]

reactant | NH3 | N | H3N
reactant | methyl 2-chloro-3-oxovalerate | 0.30 mol, 48.9 g | ClC(C(=O)OC)C(CC)=O | C6H9ClO3
product | Methyl 3-amino-2-chloro-2-pentenoate | Yield: 80.0% | NC(=C(C(=O)OC)Cl)CC | C6H10ClNO2
